US04879389
Preparation of (2S,4S)-N-methylcarbamoyl-4-dicyclohexylphosphino-2-diphenylphosphinomethylpyrrolidine (MCCPM)
Using 300 mg (0.60 m-mol) of (2S,4S)-4-dicyclohexylphosphinyl-2-diphenylphosphinylmethylpyrrolidine, the reaction and after-treatment were carried out in the same manner as described in Example 2(b) to obtain CPM. This CPM was dissolved in 8 ml of methylene chloride and 38 mg (0.66 m-mol) of methyl isocyanate was slowly added dropwise to the solution under ice-cooling. The mixture was stirred in a stream of argon for 2 hours at room temperature. The reaction liquid was concentrated at a lower temperature under reduced pressure, and the residue was dried. This product was recrystallized from methanol to obtain 292 mg (yield: 96%) of MCCPM as white crystals.

reactant | (2S,4S)-4-dicyclohexylphosphinyl-2-diphenylphosphinylmethylpyrrolidine | 300 mg | C1(CCCCC1)P(=O)([C@H]1C[C@H](NC1)CP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C29H41NO2P2
reactant | methyl isocyanate | 38 mg | CN=C=O | C2H3NO
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | (2S,4S)-N-methylcarbamoyl-4-dicyclohexylphosphino-2-diphenylphosphinomethylpyrrolidine | yield: 96% | CNC(=O)N1[C@@H](C[C@@H](C1)P(C1CCCCC1)C1CCCCC1)CP(C1=CC=CC=C1)C1=CC=CC=C1 | C31H44N2OP2
